US05420298
Using an analogous procedure to that described in the third paragraph of the portion of Example 5 which is concerned with the preparation of starting materials, 3-{5-fluoro-3-[4-(2-methyl-1,3-dioxolan-2-yl)phenylthio]phenyl}-3-methoxypyrrolidine was reacted with ethyl trifluoroacetate to give 3-{5-fluoro-3-[4-(2-methyl-1,3-dioxolan-2-yl)phenylthio]phenyl}-3-methoxy-1-(trifluoroacetyl)pyrrolidine as a gum in 58% yield.

reactant | 3-{5-fluoro-3-[4-(2-methyl-1,3-dioxolan-2-yl)phenylthio]phenyl}-3-methoxypyrrolidine | FC=1C=C(C=C(C1)C1(CNCC1)OC)SC1=CC=C(C=C1)C1(OCCO1)C | C21H24FNO3S
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
product | 3-{5-fluoro-3-[4-(2-methyl-1,3-dioxolan-2-yl)phenylthio]phenyl}-3-methoxy-1-(trifluoroacetyl)pyrrolidine | 58% yield | FC=1C=C(C=C(C1)C1(CN(CC1)C(C(F)(F)F)=O)OC)SC1=CC=C(C=C1)C1(OCCO1)C | C23H23F4NO4S
